US07547710B2
To a solution of 2-{[6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione (1.75 g, 3.5 mmol) in ethanol (50 ml), being heated under reflux, was added hydrazine monohydrate (0.5 ml, 10.5 mmol), and the mixture was heated under reflux for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in tetrahydrofuran (20 ml). Di-tert-butyl dicarbonate (0.96 ml, 4.2 mmol) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl {[6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methyl}carbamate (1.32 g, yield 79%) as white crystals.

reactant | 2-{[6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione | 3.5 mmol, 1.75 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)CCCC | C33H34N2O3
reactant | hydrazine monohydrate | 10.5 mmol, 0.5 ml | O.NN
reactant | water | O | H2O
reactant | Di-tert-butyl dicarbonate | 4.2 mmol, 0.96 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl {[6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methyl}carbamate | 1.32 g, yield 79% | C(C1=CC=CC=C1)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)CCCC | C30H40N2O3
